US05254549
A solution of 45 ml (0.47 mol) of 3-bromopyridine and 52 g (0.53 mol) of 5-hexyn-l-ol in 150 ml of triethylamine and 500 ml of dichloromethane is degassed for 15 minutes with argon, and 3 g (4.3 mmol) of bis(triphenylphosphine)palladium(II)chloride and -350 mg of cuprous iodide is added. The mixture is heated at reflux for 3 h. The cooled reaction mixture is diluted with 1 liter of dichloromethane and is washed with water and brine, dried (K2CO3), concentrated and bulb-to-bulb distilled (b.p. 120°-130° C./0.05 mbar), to give 63 g of 6-(3-pyridyl)hex-5-ynol as a yellow oil, which is dissolved in 300 ml of isopropanol and hydrogenated for 16 h over 6 g 10% palladium on carbon in a Parr-hydrogenator. The crude product is evaporatively distilled (b.p. 120-130° C./0.05 mbar), yielding 61.8 g (65%) of 6-(3-pyridyl)hexanol as a faintly yellow, viscous liquid. (C11H17NO; F.W. 179.3)

reactant | 3-bromopyridine | 0.47 mol, 45 ml | BrC=1C=NC=CC1 | C5H4BrN
reactant | 5-hexyn-l-ol | 0.53 mol, 52 g | C(CCCC#C)O | C6H10O
solvent | triethylamine | 150 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 500 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 1 liter | ClCCl | CH2Cl2
catalyst | bis(triphenylphosphine)palladium(II)chloride | 4.3 mmol, 3 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
product | 6-(3-pyridyl)hex-5-ynol | 63 g | N1=CC(=CC=C1)C#CCCCCO | C11H13NO
